US08633186B2
(S)-2-((3-Amino-2-cyanophenoxy)methyl)-N-ethylpyrrolidine-1-carboxamide
Prepared as in Example 209a from (S)-2-((2-cyano-3-nitrophenoxy)methyl)pyrrolidinium chloride (Example 209bW) and ethyl isocyanate in 100% yield as a white solid. MS 289 (MH+).

reactant | (S)-2-((2-cyano-3-nitrophenoxy)methyl)pyrrolidinium chloride | [Cl-].C(#N)C1=C(OC[C@H]2[NH2+]CCC2)C=CC=C1[N+](=O)[O-]
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | (S)-2-((3-Amino-2-cyanophenoxy)methyl)-N-ethylpyrrolidine-1-carboxamide | 100% yield | NC=1C(=C(OC[C@H]2N(CCC2)C(=O)NCC)C=CC1)C#N | C15H20N4O2
